US08383827B2
Step 4: Synthesis of 3-[5-(2,3-Dichloro-phenyl)-pyridin-3-yl]-propionamide
A mixture of 3-[5-(2,3-dichloro-phenyl)-pyridin-3-yl]-propionic acid methyl ester and ammonia (7N in MeOH, 2 ml, 14.00 mmol) was stirred at room temperature for 24 hours. Ammonia (7N in MeOH, 1 ml, 7.00 mmol) was added, and the reaction mixture was stirred for another 24 hours. Solvent was removed in vacuo. The crude product was used in the next step without purification. ESI-MS m/z: 295 [M+1]+.

reactant | 3-[5-(2,3-dichloro-phenyl)-pyridin-3-yl]-propionic acid methyl ester | COC(CCC=1C=NC=C(C1)C1=C(C(=CC=C1)Cl)Cl)=O | C15H13Cl2NO2
reactant | ammonia | 14.00 mmol, 7N, 2 ml | N | H3N
reactant | Ammonia | 7.00 mmol, 7N, 1 ml | N | H3N
product | 3-[5-(2,3-Dichloro-phenyl)-pyridin-3-yl]-propionamide | ClC1=C(C=CC=C1Cl)C=1C=C(C=NC1)CCC(=O)N | C14H12Cl2N2O
